* D:\WORKSPACE\0025_dc_filter\dc_filter.asc
* Generated by LTspice 26.0.2 for Windows.
R9 N003 N010 10e-3
L9 N010 0 9e-9
R10 N004 N011 10e-3
R11 N005 N012 10e-3
R12 N006 N013 10e-3
C13 N002 N007 3e-6 V=4 Irms=3.26 Rser=0.0352841 Lser=0
R13 N007 N014 50e-3
L13 N014 0 2e-9 Rpar=5 Cpar=0
C14 N002 N008 4.7µ V=4 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM155R60G475ME47" type="X5R"
R14 N008 N015 50e-3
L14 N015 0 25e-9 Rser=0 Cpar=0
C15 N002 N009 4.7µ V=4 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM155R60G475ME47" type="X5R"
R15 N009 N016 50e-3
L15 N016 0 25e-9
L18 N002 N001 3m Rser=3mΩ
L17 0 0 3m Rser=3mΩ
C17 N002 N001 3e-12
C18 0 0 3e-12
V1 N001 0 AC 0.1 Rser=1e-3
L8 N011 0 9e-9
L10 N012 0 9e-9
L11 N013 0 9e-9
C8 N001 N003 6µ
C9 N001 N004 6µ
C10 N001 N005 6µ
C11 N001 N006 6µ
* ------
* .
* .
K1 L18 L17 0.99625
* L17                          = 3mH        ; winding A self-inductance\nL18                          = 3mH        ; winding B self-inductance\nRser                        = 3mΩ        ; series resistance, set on each inductor (or add explicit series R)\nK1 L1 L2 0.99625                      ; coupling coefficient (spice directive)
* ------
.ac dec 100 10e3 10e9
* In Cluster
* Choke
* Out Cluster
.backanno
.end
